### PR TITLE
[Merged by Bors] - feat: local frames in a vector bundle

### PR DESCRIPTION
**Pull request by grunweg**
We construct local frames on a vector from local trivialisations. The former constructs, given a trivialisation `e` of the vector bundle and a basis of the model fibre, `Basis.localFrame` is a local frame on `e.baseSet`
A future PR will use this to define the local extension of a tangent vector to a vector field near a point.

From the path towards geodesics and the Levi-Civita connection.

Co-authored-by: Patrick Massot [patrickmassot@free.fr](mailto:patrickmassot@free.fr)

---

- [x] depends on: #27021
- [x] depends on: #30338
- [x] depends on: #31542
- [x] depends on: #31788

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 1]
```diff
@@ -57,7 +57,25 @@ Suppose `{sᵢ}` is a local frame on `U`, and `hs : IsLocalFrameOn s U`.
   if all of its frame coefficients are
 * `IsLocalFrameOn.contMDiffOn_off_coeff hs`: a section `t` is `C^k` on an open set `t ⊆ U`
   ff all of its frame coefficients are
-* `MDifferentiable` versions of the above three statements
+* `MDifferentiable` versions of the previous three statements
+
+* `Basis.localFrame e b`: the local frame on `V` w.r.t. a local trivialisation `e` of `V` and a
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
* `Module.Basis.localFrame e b`: the local frame on `V` w.r.t. a local trivialisation `e` of `V` and a
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 2]
```diff
@@ -57,7 +57,25 @@ Suppose `{sᵢ}` is a local frame on `U`, and `hs : IsLocalFrameOn s U`.
...
+  basis `b` of `F`. Use `b.localFrame e i` to access the i-th section in that frame.
+* `b.contMDiffOn_localFrame_baseSet`: each section `b.localFrame e i` is smooth on `e.baseSet`
+* `b.localFrame_toBasis_at e`: for each `x ∈ e.baseSet`, the vectors `b.localFrame e i x` form
+  a basis of `F`
+* `Basis.localFrame_coeff e b i` describes the coefficient of sections of `V` w.r.t.
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
* `Module.Basis.localFrame_coeff e b i` describes the coefficient of sections of `V` w.r.t.
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 3]
```diff
@@ -283,3 +301,334 @@ end
 end IsLocalFrameOn
 
 end IsLocalFrame
+
+namespace Module.Basis
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I'm not absolutely convinced about all these results going into the `Module.Basis` namespace. What do you think about putting them in `Trivialization`.

(Aside: IMHO `Trivialization` itself should be in the `Bundle` namespace but this is a question for another day.)

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 4]
```diff
@@ -283,3 +301,334 @@ end
...
+
+variable {ι : Type*} {x : M}
+
+noncomputable def localFrame_toBasis_at
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Here I'm imagining a name like `Trivialization.basisAt` rather than `Module.Basis.localFrame_toBasis_at`.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 5]
```diff
@@ -283,3 +301,334 @@ end
...
+-- If x is outside of `e.baseSet`, this returns the junk value 0.
+noncomputable def localFrame
+    (e : Trivialization F (Bundle.TotalSpace.proj : Bundle.TotalSpace F V → M))
+    [MemTrivializationAtlas e]
+    (b : Basis ι 𝕜 F) : ι → (x : M) → V x := fun i x ↦
+  -- idea: take the vector b i and apply the trivialisation e to it.
+  if hx : x ∈ e.baseSet then b.localFrame_toBasis_at e hx i else 0
+
+-- TODO: understand why this isn’t already a simp lemma
+attribute [simp] Trivialization.apply_mk_symm
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Have you tried just adding `simp` in place?

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 6]
```diff
@@ -283,3 +301,334 @@ end
...
+    simp [localFrame, hx, localFrame_toBasis_at]
+
+omit [IsManifold I 0 M] in
+lemma _root_.contMDiffAt_localFrame_of_mem
+    (e : Trivialization F (Bundle.TotalSpace.proj : Bundle.TotalSpace F V → M))
+    [MemTrivializationAtlas e] (b : Basis ι 𝕜 F) (i : ι) (hx : x ∈ e.baseSet) :
+    CMDiffAt n (T% (b.localFrame e i)) x :=
+  (b.localFrame_isLocalFrameOn_baseSet I n e).contMDiffAt e.open_baseSet hx _
+
+@[simp]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Are you sure about this `simp`: will the required hypothesis `hx : x ∈ e.baseSet` often be available to `simp`?

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 7]
```diff
@@ -283,3 +301,334 @@ end
...
+lemma localFrame_apply_of_mem_baseSet
+    (e : Trivialization F (Bundle.TotalSpace.proj : Bundle.TotalSpace F V → M))
+    [MemTrivializationAtlas e] (b : Basis ι 𝕜 F) {i : ι} (hx : x ∈ e.baseSet) :
+    b.localFrame e i x = b.localFrame_toBasis_at e hx i := by
+  simp [localFrame, hx]
+
+@[simp]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: As above: definitely should be `simp`?

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 8]
```diff
@@ -283,3 +301,334 @@ end
...
+lemma localFrame_apply_of_notMem
+    (e : Trivialization F (Bundle.TotalSpace.proj : Bundle.TotalSpace F V → M))
+    [MemTrivializationAtlas e] (b : Basis ι 𝕜 F) {i : ι} (hx : x ∉ e.baseSet) :
+    b.localFrame e i x = 0 := by
+  simp [localFrame, hx]
+
+lemma localFrame_toBasis_at_coe
+    (e : Trivialization F (Bundle.TotalSpace.proj : Bundle.TotalSpace F V → M))
+    [MemTrivializationAtlas e] (b : Basis ι 𝕜 F) (i : ι) (hx : x ∈ e.baseSet) :
+    b.localFrame_toBasis_at e hx i = b.localFrame e i x := by simp [hx]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Do we definitely want this lemma?

It's just `(b.localFrame_apply_of_mem_baseSet e hx).symm`.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 9]
```diff
@@ -283,3 +301,334 @@ end
...
+    [MemTrivializationAtlas e]
+    (b : Basis ι 𝕜 F) (i : ι) : (Π x : M, V x) →ₗ[𝕜] M → 𝕜 :=
+  (b.localFrame_isLocalFrameOn_baseSet I 1 e).coeff i
+
+variable {e : Trivialization F (Bundle.TotalSpace.proj : Bundle.TotalSpace F V → M)}
+  [MemTrivializationAtlas e] {b : Basis ι 𝕜 F} {x : M}
+
+omit [IsManifold I 0 M] in
+variable (e b) in
+@[simp]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean:393]: Again, I'm dubious about these conditional `simp` lemmas. (I'll stop raising this point; perhaps they're a good idea.)

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 10]
```diff
@@ -283,3 +301,334 @@ end
...
+    (localFrame_isLocalFrameOn_baseSet I 1 e b).coeff_apply_of_notMem hx s i
+
+omit [IsManifold I 0 M] in
+variable (e b) in
+@[simp]
+lemma localFrame_coeff_apply_of_mem_baseSet (hx : x ∈ e.baseSet) (s : Π x : M, V x) (i : ι) :
+    b.localFrame_coeff I e i s x = (b.localFrame_toBasis_at e hx).repr (s x) i := by
+  have ilf := b.localFrame_isLocalFrameOn_baseSet I 1 e
+  rw [show localFrame_toBasis_at e b hx = ilf.toBasisAt hx by ext j; simp [localFrame, hx]]
+  exact ilf.coeff_apply_of_mem hx s i -- XXX better variable name!
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: What does this comment mean?

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 11]
```diff
@@ -283,3 +301,334 @@ end
...
+  simpa [localFrame_coeff] using
+    (localFrame_isLocalFrameOn_baseSet I 1 e b).coeff_apply_of_notMem hx s i
+
+omit [IsManifold I 0 M] in
+variable (e b) in
+@[simp]
+lemma localFrame_coeff_apply_of_mem_baseSet (hx : x ∈ e.baseSet) (s : Π x : M, V x) (i : ι) :
+    b.localFrame_coeff I e i s x = (b.localFrame_toBasis_at e hx).repr (s x) i := by
+  have ilf := b.localFrame_isLocalFrameOn_baseSet I 1 e
+  rw [show localFrame_toBasis_at e b hx = ilf.toBasisAt hx by ext j; simp [localFrame, hx]]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I think inlining with `show` inside `rw` should be used rarely (e.g., for `rfl` facts). Let's break out another `have` here.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 12]
```diff
@@ -283,3 +301,334 @@ end
...
+    (e : Trivialization F (Bundle.TotalSpace.proj : Bundle.TotalSpace F V → M))
+    [MemTrivializationAtlas e]
+    (b : Basis ι 𝕜 F) : ι → (x : M) → V x := fun i x ↦
+  -- idea: take the vector b i and apply the trivialisation e to it.
+  if hx : x ∈ e.baseSet then b.localFrame_toBasis_at e hx i else 0
+
+-- TODO: understand why this isn’t already a simp lemma
+attribute [simp] Trivialization.apply_mk_symm
+
+omit [IsManifold I 0 M] in
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I could 20 occurrences of `omit [IsManifold I 0 M] in` below. Can we just write `omit [IsManifold I 0 M]` or use sectioning to avoid this repetition?

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 13]
```diff
@@ -283,3 +301,334 @@ end
...
+  let bas := fun v ↦ b.repr v i
+  let basl : F →ₗ[𝕜] 𝕜 := {
+    toFun := bas
+    map_add' m m' := by simp [bas]
+    map_smul' m x := by simp [bas]
+  }
+  let basL : F →L[𝕜] 𝕜 := {
+    toLinearMap := basl
+    cont := basl.continuous_of_finiteDimensional
+  }
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Minor style nits:
```suggestion
  let basl : F →ₗ[𝕜] 𝕜 :=
    { toFun := bas
      map_add' m m' := by simp [bas]
      map_smul' m x := by simp [bas] }
  let basL : F →L[𝕜] 𝕜 :=
    { toLinearMap := basl
      cont := basl.continuous_of_finiteDimensional }
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 14]
```diff
@@ -283,3 +301,334 @@ end
...
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
  let basl : F →ₗ[𝕜] 𝕜 :=
    { toFun := bas
      map_add' m m' := by simp [bas]
      map_smul' m x := by simp [bas] }
  let basL : F →L[𝕜] 𝕜 :=
    { toLinearMap := basl
      cont := basl.continuous_of_finiteDimensional }
```

**Review by ocfnash — COMMENTED** [review]
Thanks!

I've left a bunch of fairly superficial comments, but I think they're worth addressing. I'll return again once you've had a chance to respond.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Let me try that: #31127

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 10 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: That was a TODO to myself: fixed now.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 12 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Fixed!

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Sure, good idea. Done! (Let me leave this comment open to remind myself about the Trivialization move.)

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Fair point: let me remove it for now.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I've thought about this for a fair bit now: there other condition simp lemmas about trivialisations, so this is not without precedent. I think that one would only want to rewrite with these lemmas when a hypothesis `x \in e.baseSet` is in scope anyway, so I think this should be fine.
That said, unsimping all these lemmas is also fairly painless (on Patrick's and my branch) - so if you feel strongly, I can remove the simp tag also.

I've un-simped the lemma with the other hypothesis: I don't see it being used much.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 15]
```diff
@@ -84,23 +104,21 @@ open scoped Bundle Manifold ContDiff
...
 
 variable {F : Type*} [NormedAddCommGroup F] [NormedSpace 𝕜 F]
   -- `F` model fiber
   (n : WithTop ℕ∞)
   {V : M → Type*} [TopologicalSpace (TotalSpace F V)]
   [∀ x, AddCommGroup (V x)] [∀ x, Module 𝕜 (V x)]
   [∀ x : M, TopologicalSpace (V x)]
-  [FiberBundle F V] [VectorBundle 𝕜 F V] [ContMDiffVectorBundle n F V I]
-  -- `V` vector bundle
+  -- `V` a fibre bundle/vector bundle over `F` (the latter is needed only in some later sections)
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I find this slightly confusing; let's just drop it.
```suggestion
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 16]
```diff
@@ -283,3 +301,302 @@ end
 end IsLocalFrameOn
 
 end IsLocalFrame
+
+namespace Trivialization
+
+variable [VectorBundle 𝕜 F V] [ContMDiffVectorBundle n F V I] {ι : Type*} {x : M}
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean:330]: Let's add these and stop repeating them in each statement below:
```suggestion
variable [VectorBundle 𝕜 F V] [ContMDiffVectorBundle n F V I] {ι : Type*} {x : M}
  (e : Trivialization F (TotalSpace.proj : TotalSpace F V → M)) [MemTrivializationAtlas e]
  (b : Basis ι 𝕜 F)
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 17]
```diff
@@ -283,3 +301,302 @@ end
...
+
+/-- Given a compatible local trivialisation `e` of `V` and a basis `b` of the model fiber `F`,
+return the corresponding basis of `V x`. -/
+noncomputable def basisAt
+    (e : Trivialization F (TotalSpace.proj : TotalSpace F V → M)) [MemTrivializationAtlas e]
+    (b : Basis ι 𝕜 F) (hx : x ∈ e.baseSet) : Basis ι 𝕜 (V x) :=
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Note that we already have `noncomputable section` above and if we add the suggested `variable`s then this is just:
```suggestion
def basisAt (hx : x ∈ e.baseSet) : Basis ι 𝕜 (V x) :=
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 18]
```diff
@@ -283,3 +301,302 @@ end
...
+open scoped Classical in
+/-- The local frame on `V` induced by a compatible local trivialization `e` of `V` and a basis
+`b` of the model fiber `F`. Use `e.localFrame b i` to access the `i`-th section in that frame.
+
+If `x` is outside of `e.baseSet`, this returns the junk value 0. -/
+noncomputable def localFrame
+    (e : Trivialization F (TotalSpace.proj : TotalSpace F V → M)) [MemTrivializationAtlas e]
+    (b : Basis ι 𝕜 F) : ι → (x : M) → V x := fun i x ↦
+  -- idea: take the vector `b i` and apply the trivialisation `e` to it.
+  if hx : x ∈ e.baseSet then e.basisAt b hx i else 0
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
def localFrame : ι → (x : M) → V x :=
  fun i x ↦ if hx : x ∈ e.baseSet then e.basisAt b hx i else 0
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 19]
```diff
@@ -283,3 +301,302 @@ end
...
+/-- Coefficients of a section `s` of `V` w.r.t. the local frame `b.localFrame e i`.
+
+If x is outside of `e.baseSet`, this returns the junk value 0. -/
+noncomputable def localFrame_coeff
+    (e : Trivialization F (TotalSpace.proj : TotalSpace F V → M)) [MemTrivializationAtlas e]
+    (b : Basis ι 𝕜 F) (i : ι) : (Π x : M, V x) →ₗ[𝕜] M → 𝕜 :=
+  (e.localFrame_isLocalFrameOn_baseSet I 1 b).coeff i
+
+variable {e : Trivialization F (TotalSpace.proj : TotalSpace F V → M)} [MemTrivializationAtlas e]
+  {b : Basis ι 𝕜 F} {x x' : M}
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I guess if we introduce the `variable`s above this becomes just:
```suggestion
variable {e b}
variable {x x' : M}
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 20]
```diff
@@ -283,3 +301,302 @@ end
...
+variable [ContMDiffVectorBundle 1 F V I]
+
+open scoped Classical in
+variable (I) in
+/-- Coefficients of a section `s` of `V` w.r.t. the local frame `b.localFrame e i`.
+
+If x is outside of `e.baseSet`, this returns the junk value 0. -/
+noncomputable def localFrame_coeff
+    (e : Trivialization F (TotalSpace.proj : TotalSpace F V → M)) [MemTrivializationAtlas e]
+    (b : Basis ι 𝕜 F) (i : ι) : (Π x : M, V x) →ₗ[𝕜] M → 𝕜 :=
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
def localFrame_coeff (i : ι) : (Π x : M, V x) →ₗ[𝕜] M → 𝕜 :=
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 21]
```diff
@@ -283,3 +301,302 @@ end
...
+@[simp]
+lemma localFrame_coeff_apply_of_mem_baseSet (hx : x ∈ e.baseSet) (s : Π x : M, V x) (i : ι) :
+    e.localFrame_coeff I b i s x = (e.basisAt b hx).repr (s x) i := by
+  have he := e.localFrame_isLocalFrameOn_baseSet I 1 b
+  have : e.basisAt b hx = he.toBasisAt hx := by ext j; simp [localFrame, hx]
+  exact this ▸ he.coeff_apply_of_mem hx s i
+
+variable {s s' : Π x : M, V x}
+
+lemma localFrame_coeff_sum_eq [Fintype ι] (hx : x' ∈ e.baseSet) :
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Either flip the RHS and LHS or rename to:
```suggestion
lemma eq_sum_localFrame_coeff_smul [Fintype ι] (hx : x' ∈ e.baseSet) :
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 22]
```diff
@@ -283,3 +301,302 @@ end
...
+    s x' = (∑ i, (e.localFrame_coeff I b i s x') • e.localFrame b i x') := by
+  simp only [localFrame_coeff]
+  exact (localFrame_isLocalFrameOn_baseSet I 1 e b).coeff_sum_eq s hx
+
+variable (e b) in
+/-- A local frame locally spans the space of sections for `V`: for each local trivialisation `e`
+  of `V` around `x`, we have `s = ∑ i, (b.localFrame_coeff e i s) • b.localFrame e i` -/
+lemma localFrame_eventually_eq_sum_coeff_smul [Fintype ι]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
lemma eventually_eq_localFrame_sum_coeff_smul [Fintype ι]
```
I was going to suggest writing this using `Filter.EventuallyEq` but I then realised we can't because that only works for non-dependent functions.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 23]
```diff
@@ -283,3 +301,302 @@ end
...
+  eventually_nhds_iff.mpr ⟨e.baseSet, fun _ ↦ e.localFrame_coeff_sum_eq, e.open_baseSet, hxe⟩
+
+variable (e b) in
+/-- The representation of `s` in a local frame at `x` only depends on `s` at `x`. -/
+lemma localFrame_coeff_congr {i : ι} (hss' : s x = s' x) :
+    e.localFrame_coeff I b i s x = e.localFrame_coeff I b i s' x := by
+  by_cases hxe : x ∈ e.baseSet
+  · simp [localFrame_coeff, hxe]
+    congr
+  · simp [localFrame_coeff, hxe]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
  by_cases hxe : x ∈ e.baseSet <;> aesop
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 24]
```diff
@@ -283,3 +301,302 @@ end
...
+
+variable (e b) in
+lemma localFrame_coeff_apply_zero_at (hs : s x = 0) (i : ι) : e.localFrame_coeff I b i s x = 0 := by
+  simp only [localFrame_coeff]
+  exact (localFrame_isLocalFrameOn_baseSet I 1 e b).coeff_apply_zero_at hs i
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I'm dubious about this lemma. It's a trivial consequence of linearity so I feel something is wrong with the API if we need it.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 25]
```diff
@@ -283,3 +301,302 @@ end
...
+-/
+
+variable [VectorBundle 𝕜 F V] [ContMDiffVectorBundle 1 F V I]
+  {e : Trivialization F (TotalSpace.proj : TotalSpace F V → M)} [MemTrivializationAtlas e]
+  {ι : Type*} {b : Basis ι 𝕜 F} {x : M}
+
+-- TODO: can this be proven more generally, for any local frame?
+/-- If `s` is `C^k` at `x`, so is its coefficient `b.localFrame_coeff e i` in the local frame
+near `x` induced by `e` and `b` -/
+lemma contMDiffAt_localFrame_coeff [FiniteDimensional 𝕜 F] [CompleteSpace 𝕜]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: How about we pull out `[FiniteDimensional 𝕜 F] [CompleteSpace 𝕜]` as `variable`s since they appear a lot below.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 26]
```diff
@@ -283,3 +301,302 @@ end
...
+    { toFun := bas
+      map_add' m m' := by simp [bas]
+      map_smul' m x := by simp [bas] }
+  let basL : F →L[𝕜] 𝕜 :=
+    { toLinearMap := basl
+      cont := basl.continuous_of_finiteDimensional }
+  have hbas : ContMDiffAt 𝓘(𝕜, F) 𝓘(𝕜) k basL (e (s x)).2 :=
+    contMDiffAt_iff_contDiffAt.mpr <| (basL.contDiff (n := k)).contDiffAt
+  exact hbas.comp x h₁
+
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean:479]:
```suggestion

variable (b)

```
and then drop `(b : Basis ι 𝕜 F)` from numerous lemmas below

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 27]
```diff
@@ -283,3 +301,302 @@ end
...
+/-- If `s` is `C^k` on `e.baseSet`, so is its coefficient `b.localFrame_coeff e i`
+in the local frame induced by `e` -/
+lemma contMDiffOn_baseSet_localFrame_coeff [FiniteDimensional 𝕜 F] [CompleteSpace 𝕜]
+    (b : Basis ι 𝕜 F) {s : Π x : M,  V x} {k : WithTop ℕ∞} [ContMDiffVectorBundle k F V I]
+    (hs : CMDiff[e.baseSet] k (T% s)) (i : ι) : CMDiff[e.baseSet] k (e.localFrame_coeff I b i s) :=
+  contMDiffOn_localFrame_coeff b e.open_baseSet (subset_refl _) hs _
+
+/-- A section `s` of `V` is `C^k` at `x ∈ e.baseSet` iff each of its
+coefficients `b.localFrame_coeff e i s` in a local frame near `x` is -/
+lemma contMDiffAt_iff_localFrame_coeff [Fintype ι] [FiniteDimensional 𝕜 F] [CompleteSpace 𝕜]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: We don't need `[Fintype ι]` for the statement so we should drop it and derive it in the proof from `[FiniteDimensional 𝕜 F]`:
```suggestion
lemma contMDiffAt_iff_localFrame_coeff [FiniteDimensional 𝕜 F] [CompleteSpace 𝕜]
```
In fact I see that it is `IsLocalFrameOn.contMDiffAt_of_coeff` which demands `[Fintype ι]` but it should really demand `[FiniteDimensional 𝕜 F]` from which it can derive `[Finite ι]` (and `[Fintype ι]` if it needs it).

Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Sure: I've made all lemmas in this file require `FiniteDimensional k F` instead of `Fintype iota` (four lemmas need a fintype assumption for their statement; I've kept those). This made some proofs slightly longer, but I hope that I can golf those a bit soon.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 24 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Yes and no: the coefficient of the zero section being zero is trivial by linearity. This lemma is about any section at a zero of it --- this requires saying "the coefficient of a local frame at a point only depends on its value at this point" (i.e., `IsLocalFrame.coeff_congr`). This is why I added a lemma `IsLocalFrameOn.coeff_apply_zero_at`; this is just the counterpart for this particular construction.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Are you saying we should upgrade the coefficients of a local frame to a linear map on each fibre? Right now, it's a linear map on the space of sections. I'm not sure if we need that, but if you're confident about that, I'm happy to go with that.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 28]
```diff
@@ -57,7 +58,27 @@ Suppose `{sᵢ}` is a local frame on `U`, and `hs : IsLocalFrameOn s U`.
...
+* `MDifferentiable` versions of the previous three statements
+
+In the following lemmas, let `e` be a compatible local trivialisation of `V`, and `b` a basis of
+the model fiber `F`.
+* `Trivialization.basisAt e b`: for each `x ∈ e.baseSet`,
+  return the basis of `V x` induced by `e` and `b`
+* `e.localFrame b`: the local frame on `V` induced by `e` and `b`.
+  Use `e.localFrame b i` to access the i-th section in that frame.
+* `e.contMDiffOn_localFrame_baseSet`: each section `e.localFrame b i` is smooth on `e.baseSet`
+* `e.localFrame_coeff b i` describes the coefficient of sections of `V` w.r.t. `e.localFrame b`:
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
* `e.localFrame_coeff b i` describes the `i`-th coefficient of sections of `V` w.r.t. `e.localFrame b`:
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 29]
```diff
@@ -223,8 +253,12 @@ variable (hs : IsLocalFrameOn I F n s u) [VectorBundle 𝕜 F V]
 
 /-- Given a local frame `s i ` on `u`, if a section `t` has `C^k` coefficients on `u` w.r.t. `s i`,
 then `t` is `C^n` on `u`. -/
-lemma contMDiffOn_of_coeff [Fintype ι] (h : ∀ i, CMDiff[u] n (hs.coeff i t)) :
+lemma contMDiffOn_of_coeff [FiniteDimensional 𝕜 F] (h : ∀ i, CMDiff[u] n (hs.coeff i t)) :
     CMDiff[u] n (T% t) := by
+  by_cases hU : Nonempty u; swap
+  · simp [Set.not_nonempty_iff_eq_empty'.mp hU] -- future: could push replace the additional lemma?
+  obtain ⟨x, hx⟩ := hU
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
  rcases u.eq_empty_or_nonempty with rfl | ⟨x, hx⟩; · simp
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 30]
```diff
@@ -235,26 +269,34 @@ lemma contMDiffOn_of_coeff [Fintype ι] (h : ∀ i, CMDiff[u] n (hs.coeff i t))
...
 /-- Given a local frame `s i ` on `u`, if a section `t` has differentiable coefficients on `u`
 w.r.t. `s i`, then `t` is differentiable on `u`. -/
-lemma mdifferentiableOn_of_coeff [Fintype ι] (h : ∀ i, MDiff[u] (hs.coeff i t)) :
+lemma mdifferentiableOn_of_coeff [FiniteDimensional 𝕜 F] (h : ∀ i, MDiff[u] (hs.coeff i t)) :
     MDiff[u] (T% t) := by
+  by_cases hu : Nonempty u; swap
+  · -- future: could push replace the additional lemma?
+    -- TODO: why does `push_neg at hU` make `hU disappear from the local context?
+    simp [Set.not_nonempty_iff_eq_empty'.mp hu]
+  obtain ⟨x, hx⟩ := hu
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
  rcases u.eq_empty_or_nonempty with rfl | ⟨x, hx⟩; · simp
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 31]
```diff
@@ -283,3 +326,258 @@ end
...
+is `C^k` on `e.baseSet`. -/
+lemma contMDiffOn_localFrame_baseSet (i : ι) : CMDiff[e.baseSet] n (T% (e.localFrame b i)) := by
+  rw [e.contMDiffOn_section_baseSet_iff]
+  apply (contMDiffOn_const (c := b i)).congr
+  intro y hy
+  simp [localFrame, hy, basisAt]
+
+variable (I) in
+/-- `b.localFrame e i` is indeed a local frame on `e.baseSet` -/
+lemma localFrame_isLocalFrameOn_baseSet : IsLocalFrameOn I F n (e.localFrame b) e.baseSet where
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
lemma isLocalFrameOn_localFrame_baseSet : IsLocalFrameOn I F n (e.localFrame b) e.baseSet where
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 32]
```diff
@@ -283,3 +326,258 @@ end
...
+    CMDiffAt n (T% (e.localFrame b i)) x :=
+  (e.localFrame_isLocalFrameOn_baseSet I n b).contMDiffAt e.open_baseSet hx _
+
+@[simp]
+lemma localFrame_apply_of_mem_baseSet {i : ι} (hx : x ∈ e.baseSet) :
+    e.localFrame b i x = e.basisAt b hx i := by
+  simp [localFrame, hx]
+
+lemma localFrame_apply_of_notMem {i : ι} (hx : x ∉ e.baseSet) : e.localFrame b i x = 0 := by
+  simp [localFrame, hx]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: These two lemmas should be just below the definition of `localFrame` above. Furthermore if you do this you can replace several instances of `simp [localFrame, hy, basisAt]` with `simp [hy, basisAt]`.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 33]
```diff
@@ -283,3 +326,258 @@ end
...
+
+variable [ContMDiffVectorBundle 1 F V I]
+
+open scoped Classical in
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: This seems redundant:
```suggestion
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 24 above)
Comment (ocfnash) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I think you've identified the key issue: we currently lack the fiberwise linearity. I hate to give you more work but I do think this is worth exploring. To be precise, if we add the following to some low-level file:
```lean
def foo {R M : Type*} {V : M → Type*}
    [CommSemiring R] [∀ x, AddCommMonoid (V x)] [∀ x, Module R (V x)] :
    (Π x : M, V x →ₗ[R] R) →ₗ[R] (Π x : M, V x) →ₗ[R] M → R where
  toFun e :=
    { toFun s x := e x (s x)
      map_add' := by intros; ext; simp
      map_smul' := by intros; ext; simp }
  map_add' := by intros; ext; simp
  map_smul' := by intros; ext; simp
```
then we could redefine `IsLocalFrameOn.coeff` as:
```
open scoped Classical in
def coeff (hs : IsLocalFrameOn I F n s u) (i : ι) : Π x : M, (V x →ₗ[𝕜] 𝕜) := fun x ↦
  if hx : x ∈ u then (hs.toBasisAt hx).coord i else 0
```
and for those occasions when we wanted to view this as a linear form on the space of sections, we could spell this as `foo (hs.coeff i)`.

Then propagate this to `localFrame_coeff` and I expect the API to be nicer.

**Review by ocfnash — COMMENTED** [review]
How about we split out a PR with all the content strictly before `localFrame_coeff`: I think this is all ready to go (modulo the minor nitpicks I've raised as inline comments).

With that done, I think it probably is worth continuing by exploring ideas discussed [here](https://github.com/leanprover-community/mathlib4/pull/30083/files#r2515218603).

**Comment by grunweg** [comment]
Sounds good! I'll fix the easy comments you mentioned, fix the typo in the module doc-string and make a separate PR with just the first part.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 32 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Indeed, that's nicer. Thanks!

**Comment by grunweg** [comment]
@ocfnash This PR should be ready for review again - all review comments are addressed now.
Thanks a lot, @michaellee94, for your help with that!

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 34]
```diff
@@ -178,101 +187,103 @@ alias fintype_of_finiteDimensional := fintypeOfFiniteDimensional
...
 lemma coeff_sum_eq [Fintype ι] (hs : IsLocalFrameOn I F n s u) (t : Π x : M, V x) (hx : x ∈ u) :
-    t x = ∑ i, (hs.coeff i t x) • (s i x) := by
+    t x = ∑ i, (hs.coeff i x (t x)) • (s i x) := by
   simpa [coeff, hx] using (Basis.sum_repr (hs.toBasisAt hx) (t x)).symm
 
+lemma eq_of_coeff_eq [Finite ι] (hs : IsLocalFrameOn I F n s u) (hx : x ∈ u)
+    {t t' : Π x : M, V x}
+    (h : ∀ i, hs.coeff i x (t x) = (LinearMap.piApply (hs.coeff i)) t' x) :
+    t x = t' x := by
+  letI : Fintype ι := Fintype.ofFinite ι
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Nitpick: no need for this to be inline:
```suggestion
  let : Fintype ι := Fintype.ofFinite ι
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 35]
```diff
@@ -178,101 +187,103 @@ alias fintype_of_finiteDimensional := fintypeOfFiniteDimensional
...
--- TODO: add uniqueness of the decomposition; follows from the IsBasis property in the definition
-
 lemma coeff_sum_eq [Fintype ι] (hs : IsLocalFrameOn I F n s u) (t : Π x : M, V x) (hx : x ∈ u) :
-    t x = ∑ i, (hs.coeff i t x) • (s i x) := by
+    t x = ∑ i, (hs.coeff i x (t x)) • (s i x) := by
   simpa [coeff, hx] using (Basis.sum_repr (hs.toBasisAt hx) (t x)).symm
 
+lemma eq_of_coeff_eq [Finite ι] (hs : IsLocalFrameOn I F n s u) (hx : x ∈ u)
+    {t t' : Π x : M, V x}
+    (h : ∀ i, hs.coeff i x (t x) = (LinearMap.piApply (hs.coeff i)) t' x) :
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
    (h : ∀ i, hs.coeff i x (t x) = LinearMap.piApply (hs.coeff i) t' x) :
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 36]
```diff
@@ -178,101 +187,103 @@ alias fintype_of_finiteDimensional := fintypeOfFiniteDimensional
...
-  · simp [coeff, hxe]
+    hs.coeff i x (t x) = hs.coeff i x (t' x) := by
+  by_cases hxe : x ∈ u <;> simp [coeff, hxe, htt']
 
 /-- If `s` and `s'` are local frames which are equal at `x`,
 a section `t` has equal frame coefficients in them. -/
 lemma coeff_eq_of_eq (hs : IsLocalFrameOn I F n s u) (hs' : IsLocalFrameOn I F n s' u)
     (hss' : ∀ i, s i x = s' i x) {t : Π x : M, V x} (i : ι) :
-    hs.coeff i t x = hs'.coeff i t x := by
+    (hs.coeff i x) (t x) = (hs'.coeff i x) (t x) := by
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
    hs.coeff i x (t x) = hs'.coeff i x (t x) := by
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 37]
```diff
@@ -178,101 +187,103 @@ alias fintype_of_finiteDimensional := fintypeOfFiniteDimensional
...
 
 /-- Two sections `s` and `t` are equal at `x` if and only if their coefficients w.r.t. some local
 frame at `x` agree. -/
 lemma eq_iff_coeff [VectorBundle 𝕜 F V] [FiniteDimensional 𝕜 F]
     (hs : IsLocalFrameOn I F n s u) (hx : x ∈ u) :
-    t x = t' x ↔ ∀ i, hs.coeff i t x = hs.coeff i t' x := by
-  have := fintypeOfFiniteDimensional hs hx
-  exact ⟨fun h i ↦ hs.coeff_congr h i, fun h ↦ by
-    simp +contextual [h, hs.coeff_sum_eq t hx, hs.coeff_sum_eq t' hx]⟩
+    t x = t' x ↔ ∀ i, (hs.coeff i x) (t x) = (hs.coeff i x) (t' x) := by
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
    t x = t' x ↔ ∀ i, hs.coeff i x (t x) = hs.coeff i x (t' x) := by
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 38]
```diff
@@ -178,101 +187,103 @@ alias fintype_of_finiteDimensional := fintypeOfFiniteDimensional
...
+  letI := fintypeOfFiniteDimensional hs hx
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
  let := fintypeOfFiniteDimensional hs hx
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 39]
```diff
@@ -178,101 +187,103 @@ alias fintype_of_finiteDimensional := fintypeOfFiniteDimensional
...
+  exact ⟨fun h i ↦ hs.coeff_congr h i, fun h ↦ hs.eq_of_coeff_eq hx h⟩
 
+-- TODO: do we still need this lemma?
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Let's kill this lemma: thanks to your refactor, it's now just an extremely special case of `map_zero`.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 40]
```diff
@@ -178,101 +187,103 @@ alias fintype_of_finiteDimensional := fintypeOfFiniteDimensional
...
 lemma coeff_apply_zero_at (hs : IsLocalFrameOn I F n s u) (ht : t x = 0) (i : ι) :
-    hs.coeff i t x = 0 := by
-  simp [hs.coeff_congr (t' := 0) ht]
+    (hs.coeff i x) (t x) = 0 := by simp [ht]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I'll stop with these very nitpicking "remove brackets" suggestions now but it would be nice to try to kill all of these.
```suggestion
    hs.coeff i x (t x) = 0 := by simp [ht]
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 41]
```diff
@@ -369,6 +383,206 @@ lemma _root_.contMDiffAt_localFrame_of_mem (i : ι) (hx : x ∈ e.baseSet) :
...
+    ∀ᶠ x' in 𝓝 x, s x' = ∑ i, (e.localFrame_coeff I b i x') (s x') • e.localFrame b i x' :=
+  eventually_nhds_iff.mpr ⟨e.baseSet, fun _ ↦ e.eq_sum_localFrame_coeff_smul, e.open_baseSet, hxe⟩
+
+variable (e b) in
+/-- The representation of `s` in a local frame at `x` only depends on `s` at `x`. -/
+lemma localFrame_coeff_congr {i : ι} (hss' : s x = s' x) :
+    (e.localFrame_coeff I b i x) (s x) = (e.localFrame_coeff I b i x) (s' x) := by
+  simpa using (isLocalFrameOn_localFrame_baseSet I 1 e b).coeff_congr hss' i
+
+variable (e b) in -- TODO: do we need this lemma still?
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: As above, we should now drop this lemma: it's just an extremely special case of `map_zero`.

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 42]
```diff
@@ -369,6 +383,206 @@ lemma _root_.contMDiffAt_localFrame_of_mem (i : ι) (hx : x ∈ e.baseSet) :
...
+We show that for finite rank bundles over a complete field, a section is smooth iff its coefficients
+in a local frame induced by a local trivialisation are. In many contexts, this statement holds for
+*any* local frame (e.g., for all real bundles which admit a continuous bundle metric, as is
+proven in `OrthonormalFrame.lean`).
+-/
+
+variable [VectorBundle 𝕜 F V] [ContMDiffVectorBundle 1 F V I]
+  {e : Trivialization F (TotalSpace.proj : TotalSpace F V → M)} [MemTrivializationAtlas e]
+  {ι : Type*} (b : Basis ι 𝕜 F) {s : Π x : M, V x} {t : Set M} {k : WithTop ℕ∞} {x x' : M}
+variable [FiniteDimensional 𝕜 F] [CompleteSpace 𝕜] [ContMDiffVectorBundle k F V I]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
  [FiniteDimensional 𝕜 F] [CompleteSpace 𝕜] [ContMDiffVectorBundle k F V I]
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 43]
```diff
@@ -369,6 +383,206 @@ lemma _root_.contMDiffAt_localFrame_of_mem (i : ι) (hx : x ∈ e.baseSet) :
...
+  let bas := fun v ↦ b.repr v i
+  let basl : F →ₗ[𝕜] 𝕜 :=
+    { toFun := bas
+      map_add' m m' := by simp [bas]
+      map_smul' m x := by simp [bas] }
+  let basL : F →L[𝕜] 𝕜 :=
+    { toLinearMap := basl
+      cont := basl.continuous_of_finiteDimensional }
+  have hbas : ContMDiffAt 𝓘(𝕜, F) 𝓘(𝕜) k basL (e ((T% s) x)).2 :=
+    contMDiffAt_iff_contDiffAt.mpr <| basL.contDiff.contDiffAt
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
  let basl : F →ₗ[𝕜] 𝕜 :=
    { toFun v := b.repr v i
      map_add' m m' := by simp
      map_smul' m x := by simp }
  have hbas : ContMDiffAt 𝓘(𝕜, F) 𝓘(𝕜) k basl.toContinuousLinearMap (e ((T% s) x)).2 :=
    contMDiffAt_iff_contDiffAt.mpr <| by fun_prop
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 44]
```diff
@@ -369,6 +383,206 @@ lemma _root_.contMDiffAt_localFrame_of_mem (i : ι) (hx : x ∈ e.baseSet) :
...
+  let bas := fun v ↦ b.repr v i
+  let basl : F →ₗ[𝕜] 𝕜 :=
+    { toFun := bas
+      map_add' m m' := by simp [bas]
+      map_smul' m x := by simp [bas] }
+  let basL : F →L[𝕜] 𝕜 :=
+    { toLinearMap := basl
+      cont := basl.continuous_of_finiteDimensional }
+  have hbas : MDifferentiableAt 𝓘(𝕜, F) 𝓘(𝕜) basL (e ((T% s) x)).2 :=
+    mdifferentiableAt_iff_differentiableAt.mpr (basL.differentiable _)
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
  let basl : F →ₗ[𝕜] 𝕜 :=
    { toFun v := b.repr v i
      map_add' m m' := by simp
      map_smul' m x := by simp }
  have hbas : MDifferentiableAt 𝓘(𝕜, F) 𝓘(𝕜) basl.toContinuousLinearMap (e ((T% s) x)).2 :=
    mdifferentiableAt_iff_differentiableAt.mpr <| by fun_prop
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 40 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I think I caught them all - good catch!
